US05519163
Step A: 3-(3-Chlorophenoxy)benzaldehyde
A mixture of 3-bromobenzaldehyde (6.0g), 3-Chlorophenol (4.8g), sodium hydride (1.3 g of an 80% suspension in oil) and cuprous cloride (1 g) was heated under reflux in pyridine (125 ml) under an atmosphere of nitrogen gas for 16 hours. The mixture was cooled, diluted with water, acidified with hydrochloric acid and extracted with diethyl ether. The etheral extracts were dried (Na2SO4), concentrated and purified by chromatography on silica gel eluting with ethyl acetate-petroleum ether (1:9) to give the title compound as a colourless oil.

reactant | 3-bromobenzaldehyde | 6.0g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 3-Chlorophenol | 4.8g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-(3-Chlorophenoxy)benzaldehyde | ClC=1C=C(OC=2C=C(C=O)C=CC2)C=CC1 | C13H9ClO2
